### ISSUE TITLE
Does the importer support Quot

### ISSUE THREAD

**Issue by vishesh312** [rocq-community/rocq-lean-import#44]
Temp.lean
```lean
theorem plus_n_n_injective : ∀ (n m : Nat),
  n + n = m + m →
  n = m := by
  intro n
  induction n with
  | zero =>
    intro m H
    cases m with
    | zero => rfl
    | succ m' => 
      contradiction
  | succ n' IH =>
    intro m
    cases m with
    | zero =>
      intro H
      contradiction
    | succ m' =>
      intro H
      have H2 : n' + n' = m' + m' := by omega
      have H3 : n' = m' := IH m' H2
      rw [H3]
```

```coq
From LeanImport Require Import Lean.
Redirect "Imported.log" Lean Import "pnni.out".
```

[export.txt](https://github.com/user-attachments/files/23683844/export.txt)

Importer errors on the given code.

Error:
Error at line 35053 (for Quot.liftOn): #DEF 2693 31622 31635 17 21
missing Quot

**Comment by JasonGross** [comment]
@SkySkimmer Is the importer supposed to be able to handle `Quot`?  Do we need to define this Rocq-side or something?

**Comment by SkySkimmer** [comment]
It is defined rocq side
I think there was something where the name changed between lean 3 and lean 4, we may still be using the lean 3 name? 
https://github.com/rocq-community/rocq-lean-import/blob/6f72ad437e82b2bb5b3e9f06ffd2dfeffb273d24/src/leanParse.ml#L119
